### PR TITLE
feat: `Cocolorable` and `cochromaticNumber`

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
needed by 6 of the Erdős problems, https://www.erdosproblems.com/search/cochromatic 

factored out of #570

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+    intro a b h_adj
+    by_contra hw
+    absurd h
+    push_neg
+    use w a
+    by_contra hG
+    have : ¬ ((SimpleGraph.induce {v | w v = w a} G).Adj ⟨a, by rfl⟩ ⟨b, by simp_all⟩) := by
+      rw [hG]
+      simp
+    exact hw fun a ↦ this h_adj
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean]: some golfing 
```suggestion
  refine ⟨fun ⟨a, h⟩ ↦ ⟨a, by aesop⟩, fun ⟨w, h⟩ ↦ ⟨w, @fun a b h_adj ↦ ?_⟩⟩
  specialize h (w a)
  contrapose h
  intro hG
  have : ¬ ((SimpleGraph.induce {v | w v = w a} G).Adj ⟨a, by rfl⟩ ⟨b, by simp_all⟩) := 
    hG ▸ fun a ↦ a 
  exact this h_adj
```

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+
+open Classical
+
+variable {V : Type u}
+
+open SimpleGraph
+namespace SimpleGraph
+
+theorem Colorable_iff_induce_bot (G : SimpleGraph V) (n : ℕ) : G.Colorable n ↔ ∃ coloring : V → Fin n,
+  ∀ i, G.induce {v | coloring v = i} = ⊥ := by
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
    ∀ i, G.induce {v | coloring v = i} = ⊥ := by
```

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+universe u
+
+open Classical
+
+variable {V : Type u}
+
+open SimpleGraph
+namespace SimpleGraph
+
+theorem Colorable_iff_induce_bot (G : SimpleGraph V) (n : ℕ) : G.Colorable n ↔ ∃ coloring : V → Fin n,
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean]:
```suggestion
theorem colorable_iff_induce_eq_bot (G : SimpleGraph V) (n : ℕ) : G.Colorable n ↔ ∃ coloring : V → Fin n,
```

File: FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+    use w a
+    by_contra hG
+    have : ¬ ((SimpleGraph.induce {v | w v = w a} G).Adj ⟨a, by rfl⟩ ⟨b, by simp_all⟩) := by
+      rw [hG]
+      simp
+    exact hw fun a ↦ this h_adj
+
+def Cocolorable (G : SimpleGraph V) (n : ℕ) : Prop := ∃ coloring : V → Fin n,
+  ∀ i, letI induced_color_class := G.induce {v | coloring v = i}
+  induced_color_class = ⊥ ∨ induced_color_class = ⊤
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/SimpleGraph/Coloring.lean]: Since `induced_color_class` is only used twice and is about the same length as its value, I'd just use `G.induce ...` in place
